US09422292B2
A mixture of (R)-8-bromo-1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (38 mg, 0.1 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (44 mg, 0.2 mmol), tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.02 mmol), potassium fluoride (5.8 mg, 0.1 mmol) and potassium carbonate (49 mg, 0.15 mmol) in a mixed solution of toluene (2 mL), ethanol (1 mL) and water (0.2 mL) was heated at 115° C. for 1.5 hours under microwave (pressure: 2.0 bar, equipment power: 150 W). The reaction mixture was diluted with ethyl acetate (20 mL) and washed with brine (10 mL×3). The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give a residue which was purified by column chromatography (silica gel, dichloromethane/methanol=8:1) to afford (R)-5-(1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine as a white solid (10 mg, 26%).

reactant | (R)-8-bromo-1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.1 mmol, 38 mg | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C=3C=NN(C3)C)C1 | C16H17BrN6
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.2 mmol, 44 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | potassium fluoride | 0.1 mmol, 5.8 mg | [F-].[K+]
reactant | potassium carbonate | 0.15 mmol, 49 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.2 mL | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-5-(1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine | 10 mg, 26% | CC1=NN=C2N1C1=C(N(C[C@H]2C)C=2C=NN(C2)C)C=C(C=C1)C=1C=CC(=NC1)N | C21H22N8
